US08614221B2
(Z)-2-Cyano-3-ethoxy-but-2-enoic acid ethyl ester [CDII]
To a 2000 mL round-bottom flask was added CH3C(OEt)3 (583.2 g, 3.6 mol, 1.00 eq.) and Compound [CDI] (407.2 g, 3.6 mol, 1.00 eq.) in Ac2O (1000 mL). The mixture was heated to reflux at 130-150° C. for 3 hours. The reaction mixture was concentrated to a small volume and then allowed to cool to room temperature. The mixture was allowed to sit in refrigerate overnight. The precipitated solid was filtered and dried in vacuo to give Compound [CDII] as yellow solid: LCMS (m/e) 184 (M+H).

reactant | CH3C(OEt)3 | 3.6 mol, 583.2 g, 1.00 eq. | CC(OCC)(OCC)OCC | C8H18O3
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | Ac2O | 1000 mL | CC(=O)OC(=O)C | C4H6O3
product | (Z)-2-Cyano-3-ethoxy-but-2-enoic acid ethyl ester | C(C)OC(\C(=C(\C)/OCC)\C#N)=O | C9H13NO3
